US04041048
EXAMPLE 15: 1-Methyl-2-methylcarbamyl-1,2,4,5-tetrahydro-3,2-benzoxazepine
A solution of 1.37 g. of methylisocyanate in 10 ml. of diethyl ether was added dropwise to a solution of 1.96 g. of 1-methyl-1,2,4,5-tetrahydro-3,2-benzoxazepine in 30 ml. of diethyl ether under stirring at 0°-5° C. After standing overnight the solution was evaporated to dryness and the oily residue was distilled at 160° C./0.02 mm Hg. Yield 2.41 g.

reactant | methylisocyanate | CN=C=O | C2H3NO
reactant | 1-methyl-1,2,4,5-tetrahydro-3,2-benzoxazepine | CC1NOCCC2=C1C=CC=C2 | C10H13NO
solvent | diethyl ether | C(C)OCC | C4H10O
product | 1-Methyl-2-methylcarbamyl-1,2,4,5-tetrahydro-3,2-benzoxazepine | CC1N(OCCC2=C1C=CC=C2)C(NC)=O | C12H16N2O2
